US07585874B2
Cyclopropanecarboxylic acid [2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-yl]-amide
As described for Example 56, 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-ylamine (64 mg, 0.2 mmol) was converted, using cyclopropancarboxylic acid instead of cyclopropylacetic acid, to the title compound (57 mg, 79%) which was obtained as a light brown solid. MS: m/e=359.1 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-ylamine | 0.2 mmol, 64 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=C(C=C2)N)C1 | C17H14N4O
reactant | cyclopropancarboxylic acid | C1(CC1)C(=O)O | C4H6O2
product | Cyclopropanecarboxylic acid [2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-yl]-amide | 57 mg, 79% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=C(C=C2)NC(=O)C2CC2)C1 | C21H18N4O2
